US04278802
Methyl α-methylthio-α-[m-(α,α-dimethoxybenzyl)phenyl]-propionate (211 mg) was dissolved in 1 ml of ethanol, and 5 ml of an ethanol suspension of 2 cc of Raney nickel (W-II) was added. The mixture was stirred at room temperature for 1 hour. The insoluble matter was separated by filtration, and washed with 40 ml of ethanol. The filtrate and the washing are combined and concentrated under reduced pressure, and 30 ml of methylene chloride was added to the residue. The insoluble matter was separated by filtration, and the solvent was evaporated off under reduced pressure to afford 159 mg of methyl α-[m-(α,α-dimethoxybenzyl)phenyl]propionate as an oil in a yield of 86%.

reactant | Methyl α-methylthio-α-[m-(α,α-dimethoxybenzyl)phenyl]-propionate | 211 mg | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)(OC)OC | C20H24O4S
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2 cc | [Ni] | Ni
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | methyl α-[m-(α,α-dimethoxybenzyl)phenyl]propionate | 159 mg, yield of 86% | COC(C1=CC=CC=C1)(OC)C=1C=C(C=CC1)C(C(=O)OC)C | C19H22O4
